US07790882B2
Trifluoromethanesulfonic acid 1-(4-chlorophthalazin-1-yl)-naphthalen-2-yl ester
To a suspension of 1-(4-chlorophthalazin-1-yl)-naphthalen-2-ol (1.0 g, 3.3 mmol) and pyridine (0.80 ml, 9.8 mmol) in dichloromethane (10 ml) was added dropwise trifluoromethanesulfonic anhydride (0.58 ml, 3.4 mmol) at 0° C. over 2 hrs. The resulting solution was quenched with sat. aqueous ammonium chloride solution. The organic layer was separated and the water layer was extracted twice with dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (hexanes:EtOAc 3:1) to give 1.3 g of the title compound as a light brown foam. (yield: 93%)

reactant | 1-(4-chlorophthalazin-1-yl)-naphthalen-2-ol | 3.3 mmol, 1.0 g | ClC1=NN=C(C2=CC=CC=C12)C1=C(C=CC2=CC=CC=C12)O | C18H11ClN2O
reactant | pyridine | 9.8 mmol, 0.80 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 3.4 mmol, 0.58 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Trifluoromethanesulfonic acid 1-(4-chlorophthalazin-1-yl)-naphthalen-2-yl ester | 1.3 g, yield: 93% | ClC1=NN=C(C2=CC=CC=C12)C1=C(C=CC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F | C19H10ClF3N2O3S
